US08022062B2
(+)-7-Chloro-6-(tetrahydrofuran-3-ylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 332, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and (R)-toluene-4-sulfonic acid tetrahydro-furan-3-yl ester to give, after deprotection using a method similar to the General Procedure 1-4, the title compound as an off-white solid. MS (APCI+) m/z: 284 (M+H); [α]20D +32.5° (c 0.5, CH3OH); ee=95.7% [Chiral HPLC: Column: YMC ODS-AQ 120 Å 4.6×50 mm [S-3 μm]; eluent: gradient from 95:5 to 5:95 A/B; solvent A: water, 0.01% HFBA, 10% isopropanol; solvent B: acetonitrile, 0.01% HFBA, 1% isopropanol; flow rate 2 mL/min].

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | (R)-toluene-4-sulfonic acid tetrahydro-furan-3-yl ester | O1C[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C11H14O4S
product | (+)-7-Chloro-6-(tetrahydrofuran-3-ylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SC1COCC1 | InChI=1S/C14H18ClNOS.ClH/c15-13-2-1-10-3-6-16-7-4-12(10)14(13)18-11-5-8-17-9-11;/h1-2,11,16H,3-9H2;1H
